US05013863
To 15.7 g of t-butylphosphonous acid-isopropylester in 6.3 ml of acrylonitrile are added 21 ml of sodium isopropylate (0.25 molar). After the exothermic reaction (the temperature rises to 100°) the suspension is filtered, the filtrate evaporated and the residue distillated to yield isopropyl 2-cyanoethyl(t-butyl)phosphinate as an oil, b.p. 121°/8 Pa, n20D =1.4480.

reactant | t-butylphosphonous acid-isopropylester | 15.7 g | C(C)(C)OP(O)C(C)(C)C | C7H17O2P
reactant | sodium | 21 ml | [Na] | Na
reactant | acrylonitrile | 6.3 ml | C(C=C)#N | C3H3N
product | isopropyl 2-cyanoethyl(t-butyl)phosphinate | C(#N)CCP(OC(C)C)(=O)C(C)(C)C | C10H20NO2P
